US09108984B2
Step H: 4-Chloro-6-[(1E)-3,3-diethyltriaz-1-en-1-yl]-5-ethynyl-3′-fluorobiphenyl-2-carboxylic acid
A solution of methyl 4-chloro-6-[(1E)-3,3-diethyltriaz-1-en-1-yl]-3′-fluoro-5-[(trimethylsilyl)ethynyl]biphenyl-2-carboxylate (3.3 g, 7.1 mmol) in methanol (11 mL) and tetrahydrofuran (11 mL) was treated with 1 M sodium hydroxide in water (29 mL, 29 mmol) dropwise and heated at 65° C. for 1 hour. The reaction mixture was cooled to 0° C. and treated with 3 M hydrogen chloride in water (12 mL, 36 mmol) dropwise. This mixture was poured into 1 M hydrogen chloride in water (100 mL) and extracted with ethyl acetate (2×100 mL). The combined organic extracts were washed with brine (50 mL), dried with sodium sulfate, filtered, and concentrated to give the desired product (quantitative). This material was used without further purification. LCMS for C19H18ClFN3O2 (M+H)+: m/z=374.1; Found: 373.9.

reactant | methyl 4-chloro-6-[(1E)-3,3-diethyltriaz-1-en-1-yl]-3′-fluoro-5-[(trimethylsilyl)ethynyl]biphenyl-2-carboxylate | 7.1 mmol, 3.3 g | ClC=1C=C(C(=C(C1C#C[Si](C)(C)C)\N=N\N(CC)CC)C1=CC(=CC=C1)F)C(=O)OC | C23H27ClFN3O2Si
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | hydrogen chloride | 3 M | Cl | ClH
reactant | hydrogen chloride | 1 M | Cl | ClH
solvent | methanol | 11 mL | CO | CH4O
solvent | tetrahydrofuran | 11 mL | O1CCCC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | water | 36 mmol, 12 mL | O | H2O
solvent | water | 29 mmol, 29 mL | O | H2O
product | 4-Chloro-6-[(1E)-3,3-diethyltriaz-1-en-1-yl]-5-ethynyl-3′-fluorobiphenyl-2-carboxylic acid | ClC=1C=C(C(=C(C1C#C)\N=N\N(CC)CC)C1=CC(=CC=C1)F)C(=O)O | C19H17ClFN3O2
